US07034039B2
tert-butyl[4-butoxy-2-isobutyl-1-oxo-6-(1H-1,2,3-triazol-1-yl)-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.14 g, 0.3 mmol) was dissolved in a solution of 4N hydrogen chloride in ethyl acetate (5 ml,) and the mixture was stirred at room temperature for 1 h. The reaction mixture was concentrated under reduced pressure to give 3-(aminomethyl)-4-butoxy-2-isobutyl-6-(1H-1,2,3-triazol-1-yl)-1(2H)-isoquinolinone hydrochloride (81 mg, 62.3%) as an amorphous.

reactant | tert-butyl[4-butoxy-2-isobutyl-1-oxo-6-(1H-1,2,3-triazol-1-yl)-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 0.3 mmol, 0.14 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1OCCCC)N1N=NC=C1)=O)CC(C)C)=O | C25H35N5O4
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 3-(aminomethyl)-4-butoxy-2-isobutyl-6-(1H-1,2,3-triazol-1-yl)-1(2H)-isoquinolinone hydrochloride | 81 mg, 62.3% | Cl.NCC=1N(C(C2=CC=C(C=C2C1OCCCC)N1N=NC=C1)=O)CC(C)C | InChI=1S/C20H27N5O2.ClH/c1-4-5-10-27-19-17-11-15(25-9-8-22-23-25)6-7-16(17)20(26)24(13-14(2)3)18(19)12-21;/h6-9,11,14H,4-5,10,12-13,21H2,1-3H3;1H
